datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC[O:62]/[C:11](=[CH:10]/[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])[O-:12].C[O:49][C:46]1=[CH:45][CH:44]=[C:43]([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:48]=[CH:47]1>>CC[O:62][C:11]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[C:42]([C:43]1=[CH:44][CH:45]=[C:46]([O:49]C)[CH:47]=[CH:48]1)[C:53]1=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]1)[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:12] 10,11=10,20;12=11,12"
CC1=CC(C)=C(C(C)C[CH+:20][C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1.CC1=CC=C([P:10](C2=CC=C(C)C=C2C)C2=CC=C(C)C=C2C)C(C)=C1>>CC1=CC=C([P+:10](C2=CC=C(C)C=C2C)(C2=CC=C(C)C=C2C)[CH:20](CC(C)C2=C(C)C=C(C)C=C2C)[C:31]2=[C:32](C)[CH:33]=[C:34](C)[CH:35]=[C:36]2C)C(C)=C1 10=20
"CCCC[Si:63](C)(C)[CH2:62][Si:11]([H:10])([CH2:72][Si:73](C)(C)CCCC)[CH2:82][Si:83](C)(C)CCCC.O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>CCCC[Si:63](C)(C)[CH2:62][Si+:11]([CH2:72][Si:73](C)(C)CCCC)[CH2:82][Si:83](C)(C)CCCC.O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])[C:41]2=[N+:42]([O-])O[N:35]=[C:34]12 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)[O-:12]>>CC[O:72][C:11]([CH:10]([CH2:20][CH-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:96])[CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1.C[N:12]1[CH:11]=[CH:10][C:61]2=[C:62]1[CH:63]=[CH:64][CH:73]=[CH:72]2>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[CH:11]=[N+:12](C)[C:62]3=[C:61]2[CH:72]=[CH:73][CH:64]=[CH:63]3)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"CC[O:12][CH:11]=[C:10](C)C.Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1>>CC[O+:12]=[CH:11][C:10](C)(C)[Cl:20].Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=C2)[C:33](Cl)=[CH:32]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1.C[N+:23](C)=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C[C+:11]([CH2:10][CH:20]([CH:21]=[CH:22][N:23](C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1 10,11=10,20;20,21=21,22;22,23=23"
"C[C:11](=[CH2:10])[O:12][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[CH:20]=[N+:21]1C2=CC=CC=C2C2=C1C=CC=C2>>C[C:11]([CH2:10][CH:20](C)[N:21]1C2=CC=CC=C2C2=C1C=CC=C2)=[O+:12][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.CO[C:94]1=[CH:93][CH:92]=[C:91]([C:10]2=[C:11]([O-:12])[O:62]C(C)(C)[O:83][C:72]2=[O:73])[CH:102]=[CH:103]1>>CO[C:94]1=[CH:93][CH:92]=[C:91]([C:10]2([C:20]3(C4=CC=CC=C4)[S:31]CCC[S:41]3)[C:11](=[O:12])[O:62]C(C)(C)[O:83][C:72]2=[O:73])[CH:102]=[CH:103]1 10,11=10,20;12=11,12"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1.CO[C:65]1=[CH:64][CH:63]=[C:62]([N:61]2[C-:10]=[N+:71](C)[CH:73]=[CH:72]2)[CH:67]=[CH:66]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]2=[N+:71](C)[CH:73]=[CH:72][N:61]2[C:62]2=[CH:63][CH:64]=[C:65](OC)[CH:66]=[CH:67]2)[C:21]2=[CH:22][C:23](C3=CC=CC=C3)=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
C1=C[C:71]2=[C:72](C=C1)[N:62]=[N:61][N-:10]2.FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1>>FC(F)(F)[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([N:10]2[N:61]=[N:62][C:72]3=[C:71]2C=CC=C3)([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10=20
"C1=CC=C([N:12]2[CH:11]=[N:10][CH:64]=[CH:63]2)C=C1.CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]2[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([C:20]2([N:10]3[CH:11]=[N+:12](C4=CC=CC=C4)[CH:63]=[CH:64]3)[C:41]3=[C:42]([CH:43]=[CH:44][CH:45]=[CH:46]3)[C:52]3=[C:51]2[CH:56]=[CH:55][CH:54]=[CH:53]3)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)C2=CC=CC=C21.O=C(OCC1=CC=CC=C1)[NH:12][C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C[N:23]1C2=CC=CC=C2[C:21]([CH:20]([CH2:10][C:11](=[NH+:12]C(=O)OCC2=CC=CC=C2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[C:31]2=[CH:32][C:33]3=[C:34]4N(CCC3)CCC[C:35]4=[CH:36]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
